US04842638
(a) Methyl 5-hydroxy-3-oxo-5-(tetrahydrothiopyran-3-yl)-pentanoate
6.6 g of sodium hydride (80%) is added to 400 ml of tetrahydrofuran and the mixture is cooled to 0° C. At this temperature, 24.4 g of methyl acetoacetate is dripped in, the resulting mixture is stirred for 15 minutes, then 137.5 ml of a 1.6 molar butyllithium solution in hexane is dripped in and the mixture stirred for 30 minutes. At from 0° to 3° C., 26 g of tetrahydrothiopyran-3-carboaldehyde is dripped in and the mixture stirred for a further 30 minutes to complete the reaction. To this end, 45 ml of concentrated hydrochloric acid is carefully dripped in. The cold reaction mixture is poured into 250 ml of ice water and the organic phase is separated. The aqueous phase is extracted twice, each time with 250 ml of methyl tert-butyl ether. The combined organic extracts are washed once with 300 ml of saturated sodium chloride solution, dried with sodium sulfate and concentrated in a rotary evaporator. There is obtained 48.1 g of an oil which is used immediately for further reaction.

reactant | sodium hydride | 6.6 g | [H-].[Na+]
reactant | methyl acetoacetate | 24.4 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | butyllithium | 1.6 molar | C(CCC)[Li]
reactant | tetrahydrothiopyran-3-carboaldehyde | 26 g | S1CC(CCC1)C=O | C6H10OS
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | Methyl 5-hydroxy-3-oxo-5-(tetrahydrothiopyran-3-yl)-pentanoate | 48.1 g | OC(CC(CC(=O)OC)=O)C1CSCCC1 | C11H18O4S
